US08895761B2
To a solution of 4-bromo-2-ethyl-1-iodobenzene (75 g, 0.24 mol) in tetrahydrofuran (375 ml) at −75° C. is added n-butyl lithium (1.6 M in hexanes, 196 ml, 0.31 mol) dropwise, maintaining the temperature of the reaction mixture below −70° C. When the addition is complete the mixture is stirred at −75° C. for an additional 30 minutes and then N,N-dimethylformamide (70.7 g, 0.97 mol) is added dropwise. After the addition is complete the reaction is stirred at −75° C. for 2 hours, then allowed to warm to room temperature for 2 hours. The mixture is cooled in an ice bath and acidified with 0.5 N aqueous hydrochloric acid. The mixture is extracted with ethyl acetate (3×500 ml) and the organic fractions are combined, washed with brine, and dried over anhydrous sodium sulphate. The mixture is filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4-bromo-2-ethylbenzaldehyde (48 g) as an oil.

reactant | 4-bromo-2-ethyl-1-iodobenzene | 0.24 mol, 75 g | BrC1=CC(=C(C=C1)I)CC | C8H8BrI
reactant | n-butyl lithium | 0.31 mol, 1.6 M, 196 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 0.97 mol, 70.7 g | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | tetrahydrofuran | 375 ml | O1CCCC1 | C4H8O
product | 4-bromo-2-ethylbenzaldehyde | 48 g | BrC1=CC(=C(C=O)C=C1)CC | C9H9BrO
